US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.34 g) and (4-ethylphenyl)[(4-morpholinophenyl)methyl]amine (0.59 g) as starting materials, N-(4-ethylphenyl)-N-[(4-morpholinophenyl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.60 g) was obtained.

reactant | 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.34 g | C1(CCCC2=CC=CC=C12)C(=O)O | C11H12O2
reactant | (4-ethylphenyl)[(4-morpholinophenyl)methyl]amine | 0.59 g | C(C)C1=CC=C(C=C1)NCC1=CC=C(C=C1)N1CCOCC1 | C19H24N2O
product | N-(4-ethylphenyl)-N-[(4-morpholinophenyl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.60 g | C(C)C1=CC=C(C=C1)N(C(=O)C1CCCC2=CC=CC=C12)CC1=CC=C(C=C1)N1CCOCC1 | C30H34N2O2
